US08936777B2
Preparation of methyl 4-(1,3-dioxolan-2-yl)benzoate (Compound 19)
Methyl 4-formylbenzoate (3.28 g, 20.0 mmol) was suspended in ethylene glycol (4.46 mL, 80.0 mmol), then successively treated with triethyl orthoformate (3.66 mL, 22.0 mmol) and Me3NPhBr3 (376 mg, 1.00 mmol) at 22° C.; within 5 min, all solids dissolved. The resulting orange solution was stirred 0.5 h, then diluted with saturated aqueous NaHCO3 (50 mL), transferred to separatory funnel and washed with EtOAc (3×50 mL). The combined EtOAc washes were dried over MgSO4, filtered and concentrated in vacuo to a colorless oil (Rf 0.4 in 4:1 pentane/EtOAc, KMnO4). This material was used without further purification in the subsequent reduction step.

reactant | Methyl 4-formylbenzoate | 20.0 mmol, 3.28 g | C(=O)C1=CC=C(C(=O)OC)C=C1 | C9H8O3
reactant | ethylene glycol | 80.0 mmol, 4.46 mL | C(CO)O | C2H6O2
reactant | triethyl orthoformate | 22.0 mmol, 3.66 mL | C(OCC)(OCC)OCC | C7H16O3
solvent | NaHCO3 | 50 mL | C(=O)(O)[O-].[Na+]
product | methyl 4-(1,3-dioxolan-2-yl)benzoate | O1C(OCC1)C1=CC=C(C(=O)OC)C=C1 | C11H12O4
